US06599890B1
To a stirred solution of (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 4-methyl ester (4.4 g, 12.3 mmol), O-benzylhydroxylamine hydrochloride (2.15 g, 13.5 mmol), and triethylamine (5.15 mL, 36.9 mmol) was added benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (6.0 g, 12.3 mmol) at ambient temperature. The resulting mixture was stirred for 24 hours. The mixture was diluted with ethyl acetate and washed with 1 M aqueous hydrogen chloride, aqueous sodium bicarbonate, and brine. The organic mixture was dried over magnesium sulfate, filtered, and the filtrate was concentrated. The crude residue was purified by silica gel chromatography (elution with 5% methanol in methylene chloride) to provide (2R,4R)-2-benzyloxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester as a colorless solid.

reactant | (2R,4R)-1-(4-methoxy-benzenesulfonyl)-piperidine-2,4-dicarboxylic acid 4-methyl ester | 12.3 mmol, 4.4 g | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O | C15H19NO7S
reactant | O-benzylhydroxylamine hydrochloride | 13.5 mmol, 2.15 g | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 36.9 mmol, 5.15 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 12.3 mmol, 6.0 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-2-benzyloxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | COC(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NOCC1=CC=CC=C1)=O | C22H26N2O7S
